US08486950B2
To a solution of methyl 2,6-dichloro-4-cyanobenzoate (160 g, 694 mmol) in pyridine (1.5 L) at room temperature was added LiI (186 g, 1.39 mol). The mixture was heated under reflux for 2 hours, cooled to room temperature and concentrated under reduced pressure. The residue was treated with 2 N HCl (1 L) and the resulting precipitate was collected by filtration. The solid was recrystallized from DMF and water to give 2,6-dichloro-4-cyanobenzoic acid (110 g, yield: 73%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.18 (s, 2H). LCMS (ESI) m/z: 216.0 [M+H+].

reactant | methyl 2,6-dichloro-4-cyanobenzoate | 694 mmol, 160 g | ClC1=C(C(=O)OC)C(=CC(=C1)C#N)Cl | C9H5Cl2NO2
reactant | LiI | 1.39 mol, 186 g | [Li+].[I-]
solvent | pyridine | 1.5 L | N1=CC=CC=C1 | C5H5N
product | 2,6-dichloro-4-cyanobenzoic acid | 110 g, yield: 73% | ClC1=C(C(=O)O)C(=CC(=C1)C#N)Cl | C8H3Cl2NO2
